US06235742B1
N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]-phenyl}methanesulfonamide
Methanesulfonyl chloride (43 μl, 0.00055 mol) was added to a solution of 5-(4-aminobenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one (150 mg, 0.0005 mol) in pyridine (5 ml), and the reaction stirred at room temperature, under a nitrogen atmosphere for 2 hours.

reactant | Methanesulfonyl chloride | 0.00055 mol, 43 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(4-aminobenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | 0.0005 mol, 150 mg | NC1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C16H19N5O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]-phenyl}methanesulfonamide | CN1N=C(C=2N=C(NC(C21)=O)CC2=CC=C(C=C2)NS(=O)(=O)C)CCC | C17H21N5O3S
